US07777047B2
7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid
A mixture of ethyl 7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate (0.40 g), 8N aqueous sodium hydroxide solution (0.40 ml), tetrahydrofuran (5 ml) and methanol (5 ml) was stirred at 60° C. for 1 hr. The reaction mixture was concentrated, and water was added to the residue. The mixture was acidified with 10% aqueous citric acid solution, and the resulting crystals were collected by filtration, washed with water, and dried to give the title compound (0.35 g, yield 91%) as colorless crystals. melting point >240° C. (decomposition).

reactant | ethyl 7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate | 0.40 g | CN(C=1C=CC=C2C=C(NC12)C(=O)OCC)S(=O)(=O)C=1SC=CC1 | C16H16N2O4S2
reactant | sodium hydroxide | 8N, 0.40 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
product | 7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 0.35 g, yield 91% | CN(C=1C=CC=C2C=C(NC12)C(=O)O)S(=O)(=O)C=1SC=CC1 | C14H12N2O4S2
